US08859768B2
A mixture of 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-(2,2-dimethoxyethyl)-1,3-oxazole-4-carboxamide (0.226 g, 0.492 mmol) and Eaton's Reagent (7.7 wt % phosphorus pentoxide solution in methanesulfonic acid, 1.2 mL) was allowed to stir at 130° C. for 3 hr. Water was added to the reaction mixture and the solution was extracted with EtOAc. The organic solutions were combined, washed with brine and aqueous sat. NaHCO3, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-{4-[5′-(2-chlorophenyl)-2,4′-bi-1,3-oxazol-2′-yl]-5-methylpyridin-2-yl}acetamide (Compound I-10) (0.005 g, 2%). LCMS (FA): m/z=395 (M+H).

reactant | 2-(2-acetamido-5-methylpyridin-4-yl)-5-(2-chlorophenyl)-N-(2,2-dimethoxyethyl)-1,3-oxazole-4-carboxamide | 0.492 mmol, 0.226 g | C(C)(=O)NC1=NC=C(C(=C1)C=1OC(=C(N1)C(=O)NCC(OC)OC)C1=C(C=CC=C1)Cl)C | C22H23ClN4O5
reactant | Eaton's Reagent | 1.2 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | Water | O | H2O
product | N-{4-[5′-(2-chlorophenyl)-2,4′-bi-1,3-oxazol-2′-yl]-5-methylpyridin-2-yl}acetamide | 0.005 g, 2% | ClC1=C(C=CC=C1)C1=C(N=C(O1)C1=CC(=NC=C1C)NC(C)=O)C=1OC=CN1 | C20H15ClN4O3
